US07846928B2
Preparation of 1-[4-(6-Isopropyl-1-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea
In analogy to GP 6, reaction of 200 mg of 1-[4-(3-Amino-6-isopropyl-1-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea (0.43 mmol, 1 eq.) with 67 μL concentrated sulphuric acid and 146 mg sodium nitrite (5 eq.) yielded 23 mg of the desired product (12% yield).

reactant | 1-[4-(3-Amino-6-isopropyl-1-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 0.43 mmol, 200 mg, 1 eq. | NC1=NN(C2=NC(=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(C)C)C | C24H23F3N6O
reactant | sulphuric acid | 67 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 146 mg, 5 eq. | N(=O)[O-].[Na+]
product | 1-[4-(6-Isopropyl-1-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 23 mg, 12% yield | C(C)(C)C1=CC(=C2C(=N1)N(N=C2)C)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C24H22F3N5O
